US06689806B1
A mixture of 6-thiophen-2-yl-1,3-dihydroindol-2-one (100 mg, 0.5 mmol), 2-hydroxybenzaldehyde (60 mg, 0.5 mmol) and piperidine (0.23 mL) in ethanol (4 mL) was stirred at reflux overnight. The reaction mixture was concentrated and column chromatographed (eluant—isopropanol/dichloromethane) to give 80 mg (50%) of 3-(2-hydroxybenzylidene)-6-thiophen-2-yl-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 6-thiophen-2-yl-1,3-dihydroindol-2-one | 0.5 mmol, 100 mg | S1C(=CC=C1)C1=CC=C2CC(NC2=C1)=O | C12H9NOS
reactant | 2-hydroxybenzaldehyde | 0.5 mmol, 60 mg | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | piperidine | 0.23 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-(2-hydroxybenzylidene)-6-thiophen-2-yl-1,3-dihydroindol-2-one | 80 mg, 50% | OC1=C(C=C2C(NC3=CC(=CC=C23)C=2SC=CC2)=O)C=CC=C1 | C19H13NO2S
